****************************** IGBT Electrical Parameters ***************************
** Product: FGL40N120AND
** Package: TO-264
** 1200V, NPT IGBT
** Model Format: SPICE2G6
**-----------------------------------------------------------------------------------
.SUBCKT FGL40N120AND C G E
LE   74 E  1.105n 
RE   83 74 1.11m
RC   85 C  12.8m
RG   G 82  14.2m
CGC  82 C  1p 
CGD  92 93 9.8n 
CGE  E 82  2.6n 
M1   81 82 83 83 MOS W=1u L=1u          
Q1   83 81 85 VPNP 
R1   92 0 1
R2   91 94 1
RLV  95 0 1
DBE  85 81 DE 
DSD  83 81 DO 
DHV  94 93 DR
DLV  94 95 DR 13
D1   91 92 DLIM 
D2   94 0 DLIM 
FFB  82 81 VFB 1
VFB  93 0 DC 0  
ESD  96 93 POLY(1) 83 81 19 1
MLV  95 96 93 93 SW           
EGD  91 0 82 81 1
DFRD E C FRD
.MODEL SW NMOS
+ LEVEL=3         VTO=0           KP=5
.MODEL VPNP PNP 
+ IS=8.07e-13     NF=1.5          BF=0.0856      CJE=2.08e-9
+ TF=8.06e-08     XTB=1.204       EG=0.68
.MODEL MOS NMOS 
+ LEVEL=3         VMAX=5.0e5      THETA=0.032    ETA=2e-3
+ VTO=6.60        KP=21.8
.MODEL DR D
+ IS=1.0e-14      CJO=8.0e-10     VJ=0.72        M=1.24
.MODEL DO D 
+ IS=1.0e-14      BV=1200         CJO=3.5e-9     VJ=0.68    
+ M=0.84
.MODEL DE D
+ IS=1.0e-14      BV=30.0         N=2
.MODEL DLIM D 
+ IS=1.00e-7
.MODEL FRD D 
+ IS=5.0e-12      RS=0.0208       EG=1.38       N=1.5          
+ CJO=6.57e-10    VJ=0.75         M=0.45        FC=0.5          
+ TT=3.97e-08     BV=1200         IBV=2.5e-4
.ENDS
******************************* IGBT Thermal Parameters *****************************
** Package: TO-264
**-----------------------------------------------------------------------------------
.SUBCKT FGL40N120AND_Thermal TH TL
CTHERM1 TH 6 1.20e-4
CTHERM2 6 5  2.20e-2
CTHERM3 5 4  4.20e-2
CTHERM4 4 3  8.80e-2
CTHERM5 3 2  2.80e-1
CTHERM6 2 TL 8.40e-1
RTHERM1 TH 6 1.80e-3
RTHERM2 6 5  2.20e-3
RTHERM3 5 4  5.00e-3
RTHERM4 4 3  2.80e-2
RTHERM5 3 2  5.40e-2
RTHERM6 2 TL 1.59e-1
.ENDS FGL40N120AND_Thermal
**-----------------------------------------------------------------------------------
** Creation: Oct.-07-2008 / Rev 0.0
** Fairchild Semiconductor

